US05841000
160 ml of water and 60.0 g of indene (95 mol%; 0.49 mol) were put into a 500-ml 4-mouthed flask, and mixed as they were heated to 63° C. 40.1 g of bromine (0.25 mol) was added dropwise at 60°-63° C., requiring 30 minutes. On standing, 2 layers separated; the lower layer (organic layer) was transparent pale orange and no crystals could be observed. On mixing for a further 1 hour 15 minutes at 60° C., crystals of trans-2-bromoindan-1-ol were seen in the organic layer. Then 23.55 g of hydrogen peroxide (35 wt %; 0.24 mol) was added dropwise, requiring 25 minutes. After mixing for 3.5 hours at the same temperature, mixing was continued during air cooling overnight. 80 ml of chlorobenzene was added to the reaction mixture which included sticky semi-crystals, and mixed for 30 minutes. The slurry was filtered under decreased pressure at 18° C., and the cake was washed with a small quantity of chlorobenzene, and dried under decreased pressure. 52.14 g of white crystals of trans-2-bromoindan-1-ol (yield 49.9%) was obtained.

reactant | water | 160 ml | O | H2O
reactant | indene | 0.49 mol, 60.0 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | bromine | 0.25 mol, 40.1 g | BrBr | Br2
reactant | hydrogen peroxide | 0.24 mol, 23.55 g | OO | H2O2
solvent | chlorobenzene | 80 ml | ClC1=CC=CC=C1 | C6H5Cl
product | trans-2-bromoindan-1-ol | yield 49.9% | Br[C@H]1[C@@H](C2=CC=CC=C2C1)O | C9H9BrO
